US07091380B2
Methyl 4′-({[(1-aminocyclopropyl)carbonyl]amino}methyl)-1,1′-biphenyl-2-carboxylate (200 mg, 0.62 mmol), prepared according to Example 1, was dissolved in 5 mL of DCM along with iodomethane (130 mg, 0.93 mmol) and triethylamine (75 mg, 0.74 mmol). After no reaction was observed at ambient temperature, the reaction mixture was heated to reflux for about two days. After the first day, additional iodomethane was added (ca. 3–5 equiv.). After two days >50% of the starting material was consumed. The reaction mixture was concentrated under reduced pressure and the residue was subjected to silica gel chromatography eluting with 1–10% MeOH in DCM to afford 73 mg of methyl 4′-[({[1-(methylamino)cyclo-propyl]carbonyl}amino)methyl]-1,1′-biphenyl-2-carboxylate.

reactant | Methyl 4′-({[(1-aminocyclopropyl)carbonyl]amino}methyl)-1,1′-biphenyl-2-carboxylate | 0.62 mmol, 200 mg | NC1(CC1)C(=O)NCC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC | C19H20N2O3
reactant | iodomethane | 0.93 mmol, 130 mg | IC | CH3I
reactant | triethylamine | 0.74 mmol, 75 mg | C(C)N(CC)CC | C6H15N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | methyl 4′-[({[1-(methylamino)cyclo-propyl]carbonyl}amino)methyl]-1,1′-biphenyl-2-carboxylate | 73 mg | CNC1(CC1)C(=O)NCC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC | C20H22N2O3
